US06069157
4-(2-Chlorofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a solution of 5-amino-4-(2-chlorofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.204 g) in tetrahydrofuran (3 ml) was added t-butyl nitrite (171.8 μl). The mixture was heated to 65° C. for 1 hour, then cooled and evaporated. The residue was purified by column chromatography on silica gel (10 g) eluted with hexane containing increasing amounts of dichloromethane (up to 100%). Combination and evaporation of appropriate fraction gave the title compound as a white solid, m.p. 125° C.

reactant | 5-amino-4-(2-chlorofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.204 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(OC=C1)Cl | C15H6Cl3F3N4O
reactant | t-butyl nitrite | 171.8 μl | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-(2-Chlorofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | ClC=1OC=CC1C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C15H5Cl3F3N3O
